US06774132B1
1′-Isopropylspiro[indoline-3,3′-piperidin]-2-one
The compound was prepared according to PROCEDURE 1, Method A by reaction with spiro[indoline-3,3′-piperidin]-2-one and acetone (5 equivalents). Yield: 75%. 13C NMR (CDCl3): δ 17.6, 17.7, 21.7, 32.1, 48.6, 48.8, 54.0, 54.8, 109.6, 121.6, 126.2, 127.2, 134.8, 140.1, 182.4; MS (CI, CH4): m/z (rel. int.) 245 (M+1, 100).

reactant | spiro[indoline-3,3′-piperidin]-2-one | N1CC2(CCC1)C(NC1=CC=CC=C12)=O | C12H14N2O
reactant | acetone | 5 equivalents | CC(=O)C | C3H6O
reactant | CH4 | C | CH4
product | 1′-Isopropylspiro[indoline-3,3′-piperidin]-2-one | Yield: 75% | C(C)(C)N1CC2(CCC1)C(NC1=CC=CC=C12)=O | C15H20N2O
